US05763437
5-(3-Nitrophenyl)-1H-tetrazole (4.41 g) was hydrogenated in ethanol (50 ml) over 10% palladium on carbon (0.4 g) under 3 atmospheric pressure of hydrogen at ambient temperature. The reaction mixture was filtered through Celite® (Johns Manville) and washed with ethanol. The filtrate and the washings were combined and evaporated to give 5-(3-aminophenyl)-1H-tetrazole as a crystalline powder, which was triturated in diisopropyl ether and collected by filtration to afford the desired product as a white powder (3.19 g, 85.8%). This was used in a following reaction without further purification.

reactant | 5-(3-Nitrophenyl)-1H-tetrazole | 4.41 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NN=NN1 | C7H5N5O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
product | 5-(3-aminophenyl)-1H-tetrazole | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
